US04111923
(k) Nα -Benzyloxycarbonyl-L-arginyl-L-proline N-ethylamide, hydrochloride
To a cold solution of 9.7 g. ethylamine in 50 ml. of methanol is added 2 g. of Nα -benzyloxycarbonyl-L-arginyl-L-proline, methyl ester, hydrochloride. The reaction is let stand in a sealed pressure bottle at room temperature and then warmed occasionally to 40°-45° C. during eight days. It is then evaporated to small volume under reduced pressure. The residual solution is dropped into stirred ethyl ether to precipitate a somewhat sticky white solid which is dried under reduced pressure; [α]D25 -53° (c 1.02, methanol); ultraviolet in methanol λmax 257 E11 4.2.

reactant | ethylamine | C(C)N | C2H7N
reactant | Nα -benzyloxycarbonyl-L-arginyl-L-proline, methyl ester, hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)OC)CCC1
solvent | methanol | CO | CH4O
product | Nα -Benzyloxycarbonyl-L-arginyl-L-proline N-ethylamide, hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CCCNC(N)=N)=O)=O | InChI=1S/C21H32N6O4.ClH/c1-2-24-18(28)17-11-7-13-27(17)19(29)16(10-6-12-25-20(22)23)26-21(30)31-14-15-8-4-3-5-9-15;/h3-5,8-9,16-17H,2,6-7,10-14H2,1H3,(H,24,28)(H,26,30)(H4,22,23,25);1H/t16-,17-;/m0./s1
